US07235574B2
A mixture of 145 mg (0.54 mmol) 4-hydroxy-N-(2-[1,2,3]triazol-1-yl-ethyl)-benzenesulfon-amide and 117 mg (0.36 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 207 mg (0.6 mmol) 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole and 100 mg (0.6 mmol) potassium iodide were added and stirring at 60° C. continued overnight. After evaporation, the residue was mixed with 15 ml water and extracted thrice with 15 ml ethyl acetate. The combined extracts were dried, evaporated and the product purified on silica. Elution with heptane/ethyl acetate 1:5 yielded 148 mg (43%) N-(2-[1,2,3]triazol-1-yl-ethyl)-(4-{2-[(E)-2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzene-sulfonamide as white solid melting at 170–172° C.

reactant | 4-hydroxy-N-(2-[1,2,3]triazol-1-yl-ethyl)-benzenesulfon-amide | 0.54 mmol, 145 mg | OC1=CC=C(C=C1)S(=O)(=O)NCCN1N=NC=C1 | C10H12N4O3S
reactant | cesium carbonate | 0.36 mmol, 117 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 0.6 mmol, 207 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | potassium iodide | 0.6 mmol, 100 mg | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 4-{2-[(E)-2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzene-sulfonamide | FS(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)S(=O)(=O)N)(F)(F)(F)F | C18H15F5N2O4S2
